2202-09-20 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Stop Amiodarone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 1 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-20**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 79 (79 - 87) bpm
   BP: 109/79(86) {101/72(79) - 109/79(86)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     56 mL
                                                                    685 mL
   PO:
             TF:
   IVF:
                                                                     56 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,140 mL
   Urine:
   740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     56 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   GENERAL: NAD. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 10 cm.
   CARDIAC: Inferiorly displaced PMI, midclavicular line. RR, normal S1,
   loud S2. III/VI Holosystolic murmur at LLSB. No thrills, lifts. No S3
   or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e.
   Labs / Radiology
   254 K/uL
   11.3 g/dL
   123 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   35 mg/dL
   108 mEq/L
   142 mEq/L
   34.9 %
   4.8 K/uL
        [image002.jpg]
                            [**2202-9-20**]  04:36 AM
   WBC
   4.8
   Hct
   34.9
   Plt
   254
   Cr
   1.6
   Glucose
   123
   Other labs: PT / PTT / INR:14.8/27.4/1.3, Ca++:8.8 mg/dL, Mg++:1.7
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient currently in NSR.  Patient with ICD in place with AT
   pacing at rates > 180, Firing at rates > 250.  On review of ECG,
   appears to be an inferior focus of VT, likely secondary to scar.  Other
   inciting events can include ischemia, ETOHism.  Patient reports drop
   attacks over the past year - this may represent slow VT in this patient
   that is not subject to AT pacing or shock.  On review of ICD
   interrogation report, and on [**8-19**] patient had an episode of VT (180s
   BPM) for which his ICD did not fire.  This may have represented
   patient's syncopal event 1-2 months ago, but unclear.  Patient's
   syncopal/pre-syncopal events may be related to slow VT that leads to
   hypoperfusion.
   - Continue Amiodarone 1mg/min overnight
   - NPO for VT ablation tomorrow (unless CE come back positive)
   - Echocardiogram in AM to r/o apical thrombus.
   - ROMI r/o Ischemic etiology.
   - Change Carvedilol to Metoprolol 50mg [**Hospital1 **] (for more Beta blockade)
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].  Patient's last cardiac cath
   - EKG in AM
   - ROMI
   .
   # PUMP:  Euvolemic on examination.  Antero-apical Akinesis on [**2199**]
   echo, patient has been off Coumadin for several months due to non
   compliance with INR checks.
   .
   # Pancreatitis:  Alcoholic (more likely) versus Gallstone etiology (AP
   291, no other LFT abn).  Patient has benign abd examination, no other
   skin findings.
   - Plan for NPO, may take PO meds
   - Check GGT
   - Trend Lipase, LFTs
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   - CIWA Scale
   .
   #
   .
   FEN:
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with ***
   -Pain management with
   -Bowel regimen with
   .
   CODE: Presumed full
   .
   COMM:
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2202-9-19**] 09:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2202-09-22 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 IABP LINE - STOP [**2202-9-21**] 01:46 PM
 SHEATH - STOP [**2202-9-21**] 02:09 PM
 TRANSTHORACIC ECHO - At [**2202-9-21**] 03:30 PM
   Pt remains sedate on gtt but with any interruption or stimulation such
   as suctioning, very very agitated , biting ETT, blocking airway-
   requiring bolusing of propofol.
   [**9-21**]:
   -Captopril increased to 12.5mg
   -IABP pulled today
   -Abdominal distension
   -TTE: IMPRESSION: Left ventricular cavity enlargmenet with severe
   systolic dysfunction c/w multivessel CAD or other diffuse process.
   Right ventricular cavity enlargement with free wall hypokinesis.
   Pulmonary artery systolic hypertension.
   Compared with the prior study (morning of [**2202-9-20**]; images reviewed),
   the right ventricular systolic function is now more depressed. Left
   ventricular cavity size and free wall motion are similar. A mural
   thrombus is also suggested on the prior study. EF <20%.
   -heparin drip started at approximately 8pm, out of concern for LV
   thrombus (hematoma confirmed as stable first)
   -our wet read: no acute pathology on head CT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2202-9-21**] 09:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-22**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.6
   HR: 98 (78 - 102) bpm
   BP: 116/76(86) {105/66(75) - 133/85(92)} mmHg
   RR: 18 (0 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 79.2 kg (admission): 76.9 kg
             Total In:
                                                                  1,412 mL
                                                                    201 mL
   PO:
             TF:
   IVF:
                                                                  1,262 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  2,655 mL
                                                                    375 mL
   Urine:
                                                                  2,430 mL
                                                                    340 mL
   NG:
                                                                    225 mL
                                                                     35 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,243 mL
                                                                   -174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 17
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 67
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///28/
   Ve: 7.5 L/min
   Physical Examination
   GENERAL: Intubated, non-responsive
   CARDIAC: RRR, GIII holosystolic murmer at LLSB and apex.
   LUNGS: Equal BS b/l on ventilator
   ABDOMEN: Mildly distended, soft, diminished but + BS
   EXTREMITIES: No c/c/e.   LLE slightly cooler than left with 2+ b/l DP
   pulses, no swelling, erythema, or asymmetry of LEs.
   Labs / Radiology
   183 K/uL
   10.6 g/dL
   106 mg/dL
   1.8 mg/dL
   28 mEq/L
   3.6 mEq/L
   35 mg/dL
   104 mEq/L
   144 mEq/L
   32.5 %
   7.8 K/uL
        [image002.jpg]
                            [**2202-9-20**]  04:36 AM
                            [**2202-9-20**]  04:46 PM
                            [**2202-9-20**]  05:00 PM
                            [**2202-9-20**]  09:46 PM
                            [**2202-9-20**]  10:02 PM
                            [**2202-9-21**]  01:30 AM
                            [**2202-9-21**]  01:41 AM
                            [**2202-9-21**]  09:05 AM
                            [**2202-9-21**]  01:23 PM
                            [**2202-9-22**]  04:57 AM
   WBC
   4.8
   7.5
   6.4
   7.8
   Hct
   34.9
   37
   36
   33.1
   32.4
   32.9
   32.5
   Plt
   [**Telephone/Fax (3) 10621**]83
   Cr
   1.6
   1.8
   2.2
   1.8
   TropT
   <0.01
   0.61
   0.75
   0.49
   TCO2
   18
   31
   26
   25
   Glucose
   123
   168
   139
   137
   119
   106
   Other labs: PT / PTT / INR:14.7/34.6/1.3, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:29/49, Alk Phos / T Bili:216/1.8,
   Lactic Acid:1.8 mmol/L, Albumin:3.4 g/dL, LDH:321 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Imaging: TTE [**9-21**]
   The left atrium is mildly dilated. Left ventricular wall thicknesses
   are normal. The left ventricular cavity is moderately dilated with
   severe global left ventricular hypokinesis. The basal inferolateral
   wall contracts best (LVEF = 20 %). A large mural thrombus is suggested
   along the distal half of the septum and extending into the apex. The
   right ventricular cavity is moderately dilated with severe global free
   wall hypokinesis. The aortic valve leaflets (3) appear structurally
   normal with good leaflet excursion and no aortic regurgitation. The
   mitral valve leaflets are structurally normal. Mild to moderate ([**12-4**]+)
   mitral regurgitation is seen. Moderate [2+] tricuspid regurgitation is
   seen. There is moderate pulmonary artery systolic hypertension. There
   is a trivial pericardial effusion.
   IMPRESSION: Left ventricular cavity enlargmenet with severe systolic
   dysfunction c/w multivessel CAD or other diffuse process. Probable
   apical left ventricular mural thrombus. Right ventricular cavity
   enlargement with free wall hypokinesis. Pulmonary artery systolic
   hypertension.
   Compared with the prior study (morning of [**2202-9-20**]; images reviewed),
   the right ventricular systolic function is now more depressed. Left
   ventricular cavity size and free wall motion are similar. A mural
   thrombus is also suggested on the prior study.
   CT Head (Prelim) [**9-21**]
   1. No acute intracranial process.
   2. Paranasal sinus disease with fluid and secretions seen in the
   nasopharynx, presumably related to the presence of the endotracheal
   tube.
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient currently in NSR and pt has been without evidence of
   arrhythmia since return from EP procedure yesterday.  Suspect that
   episodes of VT caused his syncopal episode.  Unable to induce
   arrhythmia in cath lab o/n, however slow rhythm induced and pt required
   resuscitation for PEA.  Patient with ICD in place with AT pacing at
   rates > 180, Firing at rates > 250.  Returned to ICU on ballon pump s/p
   cardiac arrest in EP lab.  Troponins x3 negative, therefore low concern
   for ischemic etiology.  Balloon pump pulled yesterday, sedation
   continued as patient became very agitated on vent with propofol.
   - Continue propofol sedation while intubated, can switch to
   fentanyl/versed if pressures do not tolerate propofol
   - Continue metoprolol for rate control
   - Continue Heparin gtt for a fib (and thrombus, as below)
   - f/u EP recs re: need for additional intervention
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.
   -Continue heparin IV for anticoagulation
   .
   # Respiratory: Sedated on vent with volume assist, agitated and
   fighting the vent when propofol interrupted or when suctioned.  Will
   wean as tolerated and attempt extubation today if stable.
   -Wean sedation today, attempt extubation as tolerated
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical Akinesis on TTE, had
   been off coumadin given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE yesterday.  IABP removed
   [**9-21**].
   -Goal even to net negative today
   -anticoagulation with heparin while in-patient
   -Continue Metoprolol and Lisinopril, titrate up as tolerated,
   particularly once propofol is weaned
   .
   # Cool L Lower Extremity:  L foot slightly cooler than R, but without
   asymmetry, erythema, or swelling of LEs, 2+ DP pulses b/l.  Given LV
   thrombus, would consider LE US but suspicion low.
   - Consider LE doppler US
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].   Continue statin, aspirin, beta blocker.
   .
   # Acute Renal Failure:  Likely [**1-4**] poor perfusion during arrest in the
   setting of poor forward flow [**1-4**] EF 20%.  Renal function improved to
   baseline on admission.
   -Trend Cr daily
   .
   # Elevated LFTs:  Alcoholic (more likely) versus Gallstone etiology (AP
   291, no other LFT abn), GGT elevated.  Patient has unremarkable CT.
   - Trend Lipase, LFTs
   - NPO on vent
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given propofol sedation.
   - CIWA Scale in place for when patient is extubated
   .  .
   #Abd distension: Stable, CT yesterday negative.  Will monitor with
   serial abdominal exams.
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2202-9-19**] 09:51 PM
   IABP line - [**2202-9-20**] 06:00 PM
   Sheath - [**2202-9-20**] 06:00 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family
   Code status: full
   Disposition:  CCU for now

2202-09-23 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2202-9-22**] 03:20 PM
 SPUTUM CULTURE - At [**2202-9-22**] 03:20 PM
 URINE CULTURE - At [**2202-9-22**] 03:20 PM
 STOOL CULTURE - At [**2202-9-22**] 03:51 PM
 BLOOD CULTURED - At [**2202-9-22**] 03:52 PM
   -Continued to have episodes of NSVT; typically 5-8 beat run and then
   spontaneously back to NSR or sinus tachycardia. Had a run at
   approximately 11pm of SVT that the ICD shocked him back into NSR (see
   attached telemetry strip in chart).
   -Off propofol since 2pm yesterday, not responsive to verbal stumuli or
   sternal rub o/n.
   -Sputum grew 3+ GPC in pairs and chains, 3+ GN cocci, 1+ GNR, repeat
   sent
   -1^st U/A
 mod bact, 21-50 WBC
   - Repeat UA: mod leuks, neg nitrites, lg blood, 100 protein, 4
   urobilinogen, neg gluc, tr ketones, sm bilirubin, no bact, 9WBC
   -Started Vanc/Zosyn for HAP and/or UTI
   -Coumadin started at 5mg daily
   -Captopril increased dose to 25mg tid, received last night
   -Given extra beta-blocker last night, for sinus tachycardia; increased
   Metoprolol dose to 50mg tid
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-9-22**] 09:12 PM
   Piperacillin/Tazobactam (Zosyn) - [**2202-9-22**] 09:30 PM
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2202-9-22**] 08:00 AM
   Heparin Sodium - [**2202-9-22**] 04:19 PM
   Metoprolol - [**2202-9-23**] 12:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-23**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.3
C (99.1
   HR: 94 (80 - 104) bpm
   BP: 131/91(99) {107/64(73) - 132/93(101)} mmHg
   RR: 16 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.6 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,408 mL
                                                                    213 mL
   PO:
             TF:
   IVF:
                                                                    988 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    255 mL
   Urine:
                                                                    820 mL
                                                                    230 mL
   NG:
                                                                     45 mL
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    543 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 623 (364 - 623) mL
   PS : 5 cmH2O
   RR (Set): 17
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 12 cmH2O
   Plateau: 13 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 7.1 L/min
   Physical Examination
   GEN: NAD, intubated
   CV: RRR, SEM IV/VI loudest at LUSB, radiating to apex
   PULM: CTAB
   ABD: +BS, soft, nt, +distended
   EXTR: no edema, b/l, left leg cooler than right leg
   NEURO: pupils equal and moderately reactive b/l; not responding to
   verbal stimuli or sternal rub; significant cough/gag with whole upper
   body movement; partially opening eyes spontaneously
   Labs / Radiology
   188 K/uL
   10.3 g/dL
   131 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.7 mEq/L
   31 mg/dL
   108 mEq/L
   145 mEq/L
   32.2 %
   9.3 K/uL
        [image002.jpg]
                            [**2202-9-20**]  04:46 PM
                            [**2202-9-20**]  05:00 PM
                            [**2202-9-20**]  09:46 PM
                            [**2202-9-20**]  10:02 PM
                            [**2202-9-21**]  01:30 AM
                            [**2202-9-21**]  01:41 AM
                            [**2202-9-21**]  09:05 AM
                            [**2202-9-21**]  01:23 PM
                            [**2202-9-22**]  04:57 AM
                            [**2202-9-23**]  04:46 AM
   WBC
   7.5
   6.4
   7.8
   9.3
   Hct
   37
   36
   33.1
   32.4
   32.9
   32.5
   32.2
   Plt
   [**Telephone/Fax (3) 10623**]88
   Cr
   1.8
   2.2
   1.8
   1.5
   TropT
   0.61
   0.75
   0.49
   TCO2
   18
   31
   26
   25
   Glucose
   168
   139
   137
   119
   106
   131
   Other labs: PT / PTT / INR:14.9/70.1/1.3, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:29/49, Alk Phos / T Bili:216/1.8,
   Amylase / Lipase:/43, Lactic Acid:1.8 mmol/L, Albumin:3.4 g/dL, LDH:321
   IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Micro: C.diff negative; sputum
 3+ GPC, 3+ GNdiplococci, 1+GNR
   Final read CT head:
   IMPRESSION:
     1. No acute intracranial process.
     2. No pathologic focus of enhancement.
     3. Paranasal sinus disease with fluid and secretions seen in the
   nasopharynx and sphenoid sinuses, presumably related to the presence of
   the endotracheal tube.
   NOTE ADDED IN ATTENDING REVIEW: There is no evidence of acute
   territorial infarction; there is a 10mm chronic lacune in the mid-left
   cerebellar hemisphere, in addition to the smaller one in the left
   thalamus, both likely unchanged since the remote [**12-4**] study.
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure.  Suspect that episodes of VT
   caused his syncopal episode.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab. Troponins x3 negative, therefore low concern for ischemic
   etiology (then post-procedure troponins peaked at 0.75 and now
   downtrending).  Balloon pump pulled [**9-20**], sedation continued as
   patient became very agitated on vent with propofol. Off propofol since
   2pm on [**9-22**]. Had episodes of NSVT o/n
 then one episode SVT, ICD
   shocked him back into NSR/sinus tachycardia.
   - f/u EP recs re: need for additional intervention, consider amiodarone
   versus other antiarrhythmic
   - Continue metoprolol at 50mg tid for rate control
   - Continue Heparin gtt for afib (and thrombus, as below)
   - can stop checking cardiac enzymes as peaked yesterday and now
   downtrending
   - digoxin level infratherapeutic today (0.4); continue digoxin at
   present dose (renal function improving)
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.
   -Continue heparin IV gtt for anticoagulation
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   subclinical seizures, or etoh withdrawal, or excess sedation not being
   cleared by liver/kidneys.
   - Neuro consult
   - Monitor clinically
   - f/u LFT
s, monitor Cr
   - consider EEG/MRI/repeat head CT
   .
   # Respiratory: Ventilated with pressure
 CPAP. At this point, mental
   status seems to be key point keeping patient intubated.
   -Monitor mental status
   -Consider wean off ventilation and extubation, if appropriate
   -If need more sedation while continuing ventilation, consider
   midaz/fentanyl as better option than propofol; also consider bolus of
   sedatives rather than gtt
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical Akinesis on TTE, had
   been off coumadin given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE yesterday.  IABP removed
   [**9-21**].  ~500mL positive in last 24 hours.
   -Goal negative 500mL today
   -Anticoagulation with heparin while in-patient
   -Continue Metoprolol and Lisinopril, titrate up as tolerated
   .
   # Positive sputum & U/A & Tmax 101: Repeat cultures sent, and patient
   started on vanc/zosyn on [**9-22**].
   - Change to vancomycin/cefepime
   - Vanc trough tomorrow AM (given improved Cr)
   - f/u repeat cultures
   - trend WBC, fever curve (Tmax 101 o/n; WBC 9.3 (his highest during
   this hospitalization))
   .
   # Cool L Lower Extremity:  L foot slightly cooler than R, but without
   asymmetry, erythema, or swelling of LEs, 2+ DP pulses b/l. Feet without
   hair suggest chronic arterial insufficiency. Could be small cholesterol
   emboli thrown down from when balloon pump pulled, but stable
   clinically.
   - Monitor clinically
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].   Continue statin, aspirin, beta blocker.
   .
   # Acute Renal Failure:  Likely [**1-4**] poor perfusion during arrest in the
   setting of poor forward flow [**1-4**] EF 20%.  Renal function improved again
   today.
   -Trend Cr daily
   .
   # Elevated LFTs:  Alcoholic (more likely) versus Gallstone etiology (AP
   291, no other LFT abn), GGT elevated.  Patient has unremarkable CT.
   - Trend Lipase, LFTs
   - NPO on vent
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given propofol sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .  .
   #Abd distension: Stable, +BS, CT negative.  Will monitor with serial
   abdominal exams.
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable.
   - Monitor daily Hct
   ICU Care
   Nutrition: NPO
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2202-9-21**] 09:15 AM
   20 Gauge - [**2202-9-21**] 09:30 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family - Fiance Quala [**Telephone/Fax (1) 10624**],
   Brother [**Name (NI) 6290**] [**Telephone/Fax (1) 10625**], Sister [**Name (NI) 163**] [**Telephone/Fax (1) 10626**].
   Code status: Full code
   Disposition: CCU

2202-09-24 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2202-9-23**] 02:43 PM
 FEVER - 102.1
F - [**2202-9-24**] 06:00 AM
   Multiple episodes of VT
 some of them resulted in ICD shock. Started
   lidocaine (bolus and then drip).
   Decreasing UO overnight, given small slow boluses NS
 no significant
   response (ie: UO 10-20cc/hour).
   Neuro consult: suggest evoked potentials to get a sense of recovery
   possibility. Order EEG.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2202-9-22**] 09:30 PM
   Vancomycin - [**2202-9-23**] 09:00 PM
   Cefipime - [**2202-9-23**] 10:00 PM
   Infusions:
   Lidocaine - 0.5 mg/min
   Heparin Sodium - 1,150 units/hour
   Amiodarone - 1 mg/min
   Other ICU medications:
   Lidocaine - [**2202-9-23**] 01:15 PM
   Metoprolol - [**2202-9-23**] 03:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-24**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.9
C (102.1
   HR: 102 (84 - 108) bpm
   BP: 120/80(89) {116/78(86) - 137/100(107)} mmHg
   RR: 32 (14 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 77.6 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,523 mL
                                                                    440 mL
   PO:
             TF:
   IVF:
                                                                  1,403 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                    827 mL
                                                                     75 mL
   Urine:
                                                                    602 mL
                                                                     75 mL
   NG:
                                                                    225 mL
   Stool:
   Drains:
   Balance:
                                                                    696 mL
                                                                    365 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 596 (334 - 661) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.47/29/110/19/0
   Ve: 13.4 L/min
   PaO2 / FiO2: 275
   Physical Examination
   GEN: intubated, NAD
   CV: tachycardic, no m/r/g
   PULM: CTAB, auscultation of ventilator sounds
   ABD: +BS, soft, nt, distention unchanged
   EXTR: no edema
   NEURO: pupils sluggishly reactive b/l, no response to verbal stimuli or
   to sternal rub, eyes open spontaneously
   Labs / Radiology
   174 K/uL
   10.9 g/dL
   130 mg/dL
   2.7 mg/dL
   19 mEq/L
   5.0 mEq/L
   42 mg/dL
   105 mEq/L
   141 mEq/L
   35.0 %
   10.8 K/uL
        [image002.jpg]
                            [**2202-9-21**]  01:30 AM
                            [**2202-9-21**]  01:41 AM
                            [**2202-9-21**]  09:05 AM
                            [**2202-9-21**]  01:23 PM
                            [**2202-9-22**]  04:57 AM
                            [**2202-9-23**]  04:46 AM
                            [**2202-9-23**]  08:28 AM
                            [**2202-9-23**]  01:19 PM
                            [**2202-9-24**]  12:15 AM
                            [**2202-9-24**]  04:44 AM
   WBC
   6.4
   7.8
   9.3
   10.8
   Hct
   32.4
   32.9
   32.5
   32.2
   35.0
   Plt
   199
   183
   188
   174
   Cr
   2.2
   1.8
   1.5
   1.7
   2.7
   TropT
   0.75
   0.49
   TCO2
   25
   29
   22
   Glucose
   119
   106
   131
   151
   130
   Other labs: PT / PTT / INR:21.6/59.0/2.0, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:1860/5436, Alk Phos / T Bili:225/2.8,
   Amylase / Lipase:/74, Lactic Acid:1.6 mmol/L, Albumin:3.4 g/dL,
   LDH:4536 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Micro: +enterococcus
 urine culture
   Sputum gram stain; 2+GPC pairs, 2+GNR
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure.  Suspect that episodes of VT
   caused his syncopal episode.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab. Troponins x3 negative, therefore low concern for ischemic
   etiology (then post-procedure troponins peaked at 0.75 and now
   downtrending).  Balloon pump pulled [**9-20**], sedation continued as
   patient became very agitated on vent with propofol. Off propofol since
   2pm on [**9-22**]. Had multiple episodes of SVT yesterday
 ICD shocked him
   back into sinus tachycardia. Decrease VT runs since starting Lidocaine.
   - f/u EP recs
   - Continue lidocaine gtt
   - Discontinue digoxin (d/t renal failure)
   - Discontinue amiodarone
   - Start Dronedarone
   - Continue metoprolol 50mg tid
   - Continue Heparin gtt for afib (and thrombus, as below)
   - Can stop checking cardiac enzymes as peaked yesterday and now
   downtrending
   - Monitor on telemetry
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.
   -Continue heparin IV gtt for anticoagulation
   -Decrease coumadin dose to 2mg daily as INR elevated quickly, and in
   setting of prior amiodarone
   .
   # Elevated LFT
s: Concern for spurious lab value versus medication
   toxicity (amiodarone? Lidocaine?) versus viral etiology versus shock
   liver (hypoperfusion during code or during multiple VT runs, or
   secondary to multiple ICD firings)? Patient had unremarkable abdominal
   CT.
   - Recheck LFT
s this AM
   - RUQ U/S stat
   - [**Hospital1 **] LFT
   - check albumin, INR, to sense liver
s functional capabilities
   - check viral hepatitis serologies
   - keep tylenol level to less than 2gm / day
   - consider hepatology consult
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (secondary thoughts: subclinical seizures, or etoh withdrawal, or
   excess sedation not being cleared by liver/kidneys.) Off sedation since
   [**9-22**] at 2pm. Mental status does not appear improved since yesterday
   morning.
   - f/u neuro recs
   - f/u EEG results
   - Monitor clinically
   .
   # Respiratory: Overnight was overbreathing the vent with respiratory
   alkalosis, so adjusted CMV.
   -Monitor ABG
   -Place A-line
   -Monitor mental status
   -Consider wean off ventilation, if appropriate
   -If need more sedation while continuing ventilation, consider
   midazolam/fentanyl as better option than propofol; also consider bolus
   of sedatives rather than gtt
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE yesterday.  IABP removed
   [**9-21**].  ~600mL positive in last 24 hours.
   -Goal negative 500mL today to make up for positives last 2 days
   -40mg IV lasix now
   -f/u I
s & O
   -Anticoagulation with heparin as bridge to coumadin (goal INR [**1-5**]);
   need therapeutic overlap for 2 days, so continue both
   -Continue Metoprolol
   -D/c Lisinopril d/t renal failure
   .
   # Positive sputum & U/A & Tmax 103.6 & rising WBC: Patient started on
   antibiotics on [**9-22**].
   - Continue to vancomycin/cefepime
   - Vanc trough ~35 and patient received vanco this AM, so d/c order and
   then check trough tomorrow AM and then redose as appropriate,
   especially given supratherapeutic level in combination with rising Cr
   - f/u repeat cultures
   - trend WBC, fever curve
   - resend c.diff test (patient with diarrhea)
   - Start flagyl 500mg po tid, for anaerobic gut coverage
   .
   # Cool L Lower Extremity:  L foot slightly cooler than R, but without
   asymmetry, erythema, or swelling of LEs, 2+ DP pulses b/l. Feet without
   hair suggest chronic arterial insufficiency. Could be small cholesterol
   emboli thrown down from when balloon pump pulled, but stable/improved
   clinically.
   - Monitor clinically
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   # Acute Renal Failure:  Likely [**1-4**] poor perfusion during arrest in the
   setting of poor forward flow [**1-4**] EF 20%.  Renal function had been
   improving, and now acutely worsened again today. Urine output down to
   ~10cc/hour; even after given small fluid boluses, did not see UO
   pick-up.
   -f/u urine lytes (ordered this AM)
   -trend Cr
   -d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   -[**Hospital1 **] electrolytes
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given propofol sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .  .
   #Abd distension: Stable, +BS, CT negative, acutely elevated LFT
   - Will monitor with serial abdominal exams.
   - Monitor LFT
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   - Monitor daily Hct
   ICU Care
   Nutrition: Tube feeds, per nutrition recommendations, +bran flakes.
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2202-9-21**] 09:15 AM
   20 Gauge - [**2202-9-23**] 09:41 AM
   Plan to place a-line.
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family - Fiance Quala [**Telephone/Fax (1) 10624**],
   Brother [**Name (NI) 6290**] [**Telephone/Fax (1) 10625**], Sister [**Name (NI) 163**] [**Telephone/Fax (1) 10626**]. [**Name2 (NI) **] update
   family this afternoon.
   Code status: Full code
   Disposition: CCU

2202-09-25 07:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2202-9-24**] 09:00 AM
 ARTERIAL LINE - START [**2202-9-24**] 03:00 PM
 SPUTUM CULTURE - At [**2202-9-24**] 11:30 PM
 BLOOD CULTURED - At [**2202-9-24**] 11:39 PM
 EKG - At [**2202-9-25**] 12:30 AM
 BLOOD CULTURED - At [**2202-9-25**] 01:47 AM
 URINE CULTURE - At [**2202-9-25**] 02:43 AM
 FEVER - 103.6
F - [**2202-9-24**] 08:00 AM
   [**9-24**]:
   started Dronedarone (antiarrhythmic)
   decreasing UOP - tried 500cc NS over 2 hours, as didn't respond to
   lasix and Feurea pointed towards pre-renal
   -renal c/s in the AM
   -4units FFP on hold in case needs dialysis/line, coumadin d/c'd
   -changed cefepime dosing based on renal function
   -holding vanc until get AM trough level, and then can re-dose and
   likely restart
   -fever o/n - cooling blanket
   -hyperkalemia (ekg - no peaked T's, ca, insulin, kayexelate)
   -low blood sugars repeatedly
   -lactic acid elevated, more infectious/septic picture, incr WBC,
   started cipro
   neuro - patient not seizing
   repeat LFT's still elevated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2202-9-22**] 09:30 PM
   Vancomycin - [**2202-9-24**] 09:00 AM
   Cefipime - [**2202-9-24**] 09:24 PM
   Ciprofloxacin - [**2202-9-25**] 12:36 AM
   Metronidazole - [**2202-9-25**] 07:01 AM
   Infusions:
   Lidocaine - 0.5 mg/min
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2202-9-24**] 01:35 PM
   Famotidine (Pepcid) - [**2202-9-24**] 08:38 PM
   Dextrose 50% - [**2202-9-24**] 10:07 PM
   Insulin - Regular - [**2202-9-25**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-25**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 35.6
C (96
   HR: 75 (64 - 99) bpm
   BP: 128/89(103) {82/48(59) - 136/96(110)} mmHg
   RR: 16 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,744 mL
                                                                    687 mL
   PO:
             TF:
                                                                     70 mL
                                                                      4 mL
   IVF:
                                                                  2,264 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                  1,034 mL
   Urine:
                                                                    190 mL
                                                                     34 mL
   NG:
   150 mL
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  2,054 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 521 (517 - 610) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/21/188/15/-8
   Ve: 8.6 L/min
   PaO2 / FiO2: 470
   Physical Examination
   GEN: intubated, NAD
   CV: tachycardic, no m/r/g
   PULM: CTAB, auscultation of ventilator sounds
   ABD: +BS, soft, nt, distention unchanged
   EXTR: no edema
   NEURO: pupils sluggishly reactive b/l, no response to verbal stimuli or
   to sternal rub, eyes open spontaneously
   Labs / Radiology
   128 K/uL
   10.6 g/dL
   178 mg/dL
   4.6 mg/dL
   15 mEq/L
   4.3 mEq/L
   59 mg/dL
   103 mEq/L
   140 mEq/L
   33.2 %
   18.5 K/uL
        [image002.jpg]
                            [**2202-9-23**]  04:46 AM
                            [**2202-9-23**]  08:28 AM
                            [**2202-9-23**]  01:19 PM
                            [**2202-9-24**]  12:15 AM
                            [**2202-9-24**]  04:44 AM
                            [**2202-9-24**]  12:28 PM
                            [**2202-9-24**]  04:58 PM
                            [**2202-9-24**]  10:09 PM
                            [**2202-9-24**]  11:54 PM
                            [**2202-9-25**]  02:47 AM
   WBC
   9.3
   10.8
   17.8
   18.5
   Hct
   32.2
   35.0
   34.9
   33.2
   Plt
   188
   174
   138
   128
   Cr
   1.5
   1.7
   2.7
   3.5
   4.2
   4.6
   TCO2
   29
   22
   12
   13
   Glucose
   131
   151
   130
   210
   61
   178
   Other labs: PT / PTT / INR:35.0/91.3/3.6, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:3616/9190, Alk Phos / T Bili:217/3.7,
   Amylase / Lipase:/183, Lactic Acid:8.3 mmol/L, Albumin:3.7 g/dL,
   LDH:7895 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   Imaging: [**9-24**] Duplex Doppler Abd/Pelvis
   1. Unremarkable hepatic architecture and no biliary dilatation.
   2. Patent hepatic vasculature with markedly undulating bidirectional
   flow
   seen in the portal veins suggestive of right heart failure.
   Microbiology: [**9-24**] Sputum Cx pending
      GRAM STAIN (Final [**2202-9-25**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
   [**9-25**] UCx, BCx pending
   C. diff stool negative
      GRAM STAIN (Final [**2202-9-23**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         GRAM NEGATIVE ROD #1.    SPARSE GROWTH.
         GRAM NEGATIVE ROD #2.    RARE GROWTH.
   [**2202-9-22**] 10:29 pm URINE      Source: Catheter.
      URINE CULTURE (Preliminary):
         ENTEROCOCCUS SP..    10,000-100,000 ORGANISMS/ML..
      GRAM STAIN (Final [**2202-9-22**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND IN SHORT CHAINS.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      RESPIRATORY CULTURE (Final [**2202-9-24**]):
         MODERATE GROWTH Commensal Respiratory Flora.
   HBsAg: Pnd
   HBs-Ab: Pnd
   HBc-Ab: Pnd
   HAV-Ab: Pnd
   IgM-HBc: Pnd
   IgM-HAV: Pnd
   HCV-Ab: Pnd
                                                                [**2202-9-25**]
                                                                    02:45a
   _______________________________________________________________________
   Source: Catheter
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.007
   pH
   5.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Mod
   Bld
   Lg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   56
   WBC
   18
   Bact
   Few
   Yeast
   None
   Epi
   2
   Other Urine Counts
   CastHy: 6
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure.  Suspect that episodes of VT
   caused his syncopal episode.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab. Troponins x3 negative, therefore low concern for ischemic
   etiology (then post-procedure troponins peaked at 0.75 and now
   downtrending).  Balloon pump pulled [**9-20**], sedation continued as
   patient became very agitated on vent with propofol. Off propofol since
   2pm on [**9-22**]. Had multiple episodes of SVT yesterday
 ICD shocked him
   back into sinus tachycardia. Decrease VT runs since starting Lidocaine.
   - f/u EP recs
   - Continue lidocaine gtt
   - Discontinue digoxin (d/t renal failure)
   - Discontinue amiodarone
   - Start Dronedarone
   - Continue metoprolol 50mg tid
   - Continue Heparin gtt for afib (and thrombus, as below)
   - Can stop checking cardiac enzymes as peaked yesterday and now
   downtrending
   - Monitor on telemetry
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.
   -Continue heparin IV gtt for anticoagulation
   -Decrease coumadin dose to 2mg daily as INR elevated quickly, and in
   setting of prior amiodarone
   .
   # Elevated LFT
s: Concern for spurious lab value versus medication
   toxicity (amiodarone? Lidocaine?) versus viral etiology versus shock
   liver (hypoperfusion during code or during multiple VT runs, or
   secondary to multiple ICD firings)? Patient had unremarkable abdominal
   CT.
   - Recheck LFT
s this AM
   - RUQ U/S stat
   - [**Hospital1 **] LFT
   - check albumin, INR, to sense liver
s functional capabilities
   - check viral hepatitis serologies
   - keep tylenol level to less than 2gm / day
   - consider hepatology consult
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (secondary thoughts: subclinical seizures, or etoh withdrawal, or
   excess sedation not being cleared by liver/kidneys.) Off sedation since
   [**9-22**] at 2pm. Mental status does not appear improved since yesterday
   morning.
   - f/u neuro recs
   - f/u EEG results
   - Monitor clinically
   .
   # Respiratory: Overnight was overbreathing the vent with respiratory
   alkalosis, so adjusted CMV.
   -Monitor ABG
   -Place A-line
   -Monitor mental status
   -Consider wean off ventilation, if appropriate
   -If need more sedation while continuing ventilation, consider
   midazolam/fentanyl as better option than propofol; also consider bolus
   of sedatives rather than gtt
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE yesterday.  IABP removed
   [**9-21**].  ~600mL positive in last 24 hours.
   -Goal negative 500mL today to make up for positives last 2 days
   -40mg IV lasix now
   -f/u I
s & O
   -Anticoagulation with heparin as bridge to coumadin (goal INR [**1-5**]);
   need therapeutic overlap for 2 days, so continue both
   -Continue Metoprolol
   -D/c Lisinopril d/t renal failure
   .
   # Positive sputum & U/A & Tmax 103.6 & rising WBC: Patient started on
   antibiotics on [**9-22**].
   - Continue to vancomycin/cefepime
   - Vanc trough ~35 and patient received vanco this AM, so d/c order and
   then check trough tomorrow AM and then redose as appropriate,
   especially given supratherapeutic level in combination with rising Cr
   - f/u repeat cultures
   - trend WBC, fever curve
   - resend c.diff test (patient with diarrhea)
   - Start flagyl 500mg po tid, for anaerobic gut coverage
   .
   # Cool L Lower Extremity:  L foot slightly cooler than R, but without
   asymmetry, erythema, or swelling of LEs, 2+ DP pulses b/l. Feet without
   hair suggest chronic arterial insufficiency. Could be small cholesterol
   emboli thrown down from when balloon pump pulled, but stable/improved
   clinically.
   - Monitor clinically
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   # Acute Renal Failure:  Likely [**1-4**] poor perfusion during arrest in the
   setting of poor forward flow [**1-4**] EF 20%.  Renal function had been
   improving, and now acutely worsened again today. Urine output down to
   ~10cc/hour; even after given small fluid boluses, did not see UO
   pick-up.
   -f/u urine lytes (ordered this AM)
   -trend Cr
   -d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   -[**Hospital1 **] electrolytes
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given propofol sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .  .
   #Abd distension: Stable, +BS, CT negative, acutely elevated LFT
   - Will monitor with serial abdominal exams.
   - Monitor LFT
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   - Monitor daily Hct
   ICU Care
   Nutrition: Tube feeds, per nutrition recommendations, +bran flakes.
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2202-9-21**] 09:15 AM
   20 Gauge - [**2202-9-23**] 09:41 AM
   Plan to place a-line.
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: famotidine
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family - Fiance Quala [**Telephone/Fax (1) 10624**],
   Brother [**Name (NI) 6290**] [**Telephone/Fax (1) 10625**], Sister [**Name (NI) 163**] [**Telephone/Fax (1) 10626**]. [**Name2 (NI) **] update
   family this afternoon.
   Code status: Full code
   Disposition: CCU

2202-09-26 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2202-9-25**] 12:00 PM
   -Sputum cx shows Neisseria meningitides
   -Heparin d/c'ed for Renal HD line placement, turned back on after
   dialysis not initiated
   -evoked potentials not done today
   -Increased Vanc dose
   -Lactate 5.9 <- 8.3
   -Neuro EEG showed encephalopathy (from several days ago)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-9-24**] 09:00 AM
   Ciprofloxacin - [**2202-9-25**] 01:00 PM
   Metronidazole - [**2202-9-25**] 08:00 PM
   Cefipime - [**2202-9-25**] 08:22 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-26**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.8
   HR: 80 (63 - 88) bpm
   BP: 121/73(88) {91/50(64) - 129/89(103)} mmHg
   RR: 16 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.3 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,840 mL
                                                                    134 mL
   PO:
             TF:
                                                                      4 mL
   IVF:
                                                                  1,433 mL
                                                                    134 mL
   Blood products:
                                                                  1,123 mL
   Total out:
                                                                  2,017 mL
                                                                    182 mL
   Urine:
                                                                    167 mL
                                                                    182 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                    823 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 494 (468 - 611) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: 7.38/33/180/19/-4
   Ve: 8 L/min
   PaO2 / FiO2: 450
   Physical Examination
   GEN: intubated, NAD
   CV: RRR, no m/r/g
   PULM: CTAB, equal BS anteriorly
   ABD: +BS, soft, distention unchanged
   EXTR: 1+ pedal edema at ankles b/l
   NEURO: no response to sternal rub
   Labs / Radiology
   128 K/uL
   10.6 g/dL
   108 mg/dL
   5.0 mg/dL
   19 mEq/L
   3.8 mEq/L
   65 mg/dL
   104 mEq/L
   144 mEq/L
   33.2 %
   18.5 K/uL
                            [**2202-9-24**]  12:15 AM
                            [**2202-9-24**]  04:44 AM
                            [**2202-9-24**]  12:28 PM
                            [**2202-9-24**]  04:58 PM
                            [**2202-9-24**]  10:09 PM
                            [**2202-9-24**]  11:54 PM
                            [**2202-9-25**]  02:47 AM
                            [**2202-9-25**]  01:33 PM
                            [**2202-9-25**]  04:55 PM
                            [**2202-9-26**]  06:22 AM
   WBC
   10.8
   17.8
   18.5
   Hct
   35.0
   34.9
   33.2
   Plt
   174
   138
   128
   Cr
   2.7
   3.5
   4.2
   4.6
   5.0
   TCO2
   22
   12
   13
   16
   20
   Glucose
   130
   210
   61
   178
   112
   108
   Other labs: PT / PTT / INR:31.4/61.2/3.1, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:3616/9190, Alk Phos / T Bili:217/3.7,
   Amylase / Lipase:/183, Lactic Acid:3.8 mmol/L, Albumin:3.7 g/dL,
   LDH:7895 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT yesterday
 ICD shocked him back into sinus tachycardia. These
   episodes improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   - Continue Dronedarone
   - Continue metoprolol 50mg tid for rate control
   - Hold Heparin gtt for afib and mural thrombus
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.
   - f/u neuro recs
   - f/u evoked potential test results, will need to re-address recovery
   potential with family once these results have been obtained.
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus, still with fevers of 102 with rising
   leukocytosis.  Patient started on antibiotics on [**9-22**].
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days), will dc vanco
   - continue cefepime for gram negatives in sputum
   - foley change (last change [**9-19**]) and re-culture urine
   .
   # Transaminitis: Elevated transaminases, LDH concerning for medication
   toxicity (amiodarone) versus viral etiology versus shock liver
   (hypoperfusion during code or during multiple VT runs, or secondary to
   multiple ICD firings)  Patient had unremarkable abdominal CT ([**9-20**]),
   negative RUQ US ([**9-24**]).  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - f/u viral hepatitis serologies
   - keep tylenol level to less than 2gm / day
   - d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   - [**Hospital1 **] electrolytes
   .
   #ARF: Patient in acute renal failure, likely [**1-4**] poor perfusion during
   arrest in the setting of poor forward flow [**1-4**] EF 20%.  Renal function
   worsening with poor urine output.  Will likely need CVVH vs. HD; Renal
   following.   Waiting for neuro results and family meeting prior to
   starting dialysis.  No urgent need for dialysis but hemodialysis line
   in place for dialysis if indicate.  Appreciate renal recs.
   - follow daily lytes, creatinine, fluid balance, UOP.
   - consider CVVHD vs. HD on Monday per Renal recs, given low UOP and
   volume overloaded.
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.  INR
   supertherapeutic now.
   -Continue heparin for now
   -Hold warfarin for now, will restart when INR therapeutic
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, anticipate
   initiation of CVVH vs. HD today, [**9-25**].
   -Continue Metoprolol
   -Lisinopril held d/t renal failure
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   # Cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   #Abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   ICU Care
   Nutrition: will re-start tube feeds today
   Glycemic Control:
   Lines:
   Arterial Line - [**2202-9-24**] 03:00 PM
   20 Gauge - [**2202-9-25**] 01:38 AM
   22 Gauge - [**2202-9-25**] 01:39 AM
   Dialysis Catheter - [**2202-9-25**] 12:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole
   VAP:  elevate HOB
   Comments:
   Communication:  Comments: with family
   Code status: Full code, will readress with family in AM given poor
   neurologic prognosis.
   Disposition: CCU for now

2202-09-27 06:54:00 Physician Resident Progress Note
Chief Complaint: syncope, ICD firing,
   24 Hour Events:
   [**9-26**]- Lidocaine d/c
d. Remained on antiarrhythmic Multaq/Dronedarone.
   Attempted TF again but residuals too high. Urine output increasing
   BUN/CR remain elevated. Urine positive for enterococcus. ABX: Cipro,
   vanco, and Flagyl d/c
d. on ampicillin and cefepime. Afebrile. Started
   back on lopressor IV.
   [**9-27**]- due for neuro evoke potential exam today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2202-9-24**] 09:00 AM
   Ciprofloxacin - [**2202-9-25**] 01:00 PM
   Metronidazole - [**2202-9-25**] 08:00 PM
   Cefipime - [**2202-9-26**] 08:30 PM
   Ampicillin - [**2202-9-27**] 04:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2202-9-26**] 08:30 PM
   Metoprolol - [**2202-9-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-27**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 73 (73 - 84) bpm
   BP: 96/52(66) {96/52(66) - 133/85(101)} mmHg
   RR: 18 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                    808 mL
                                                                    210 mL
   PO:
             TF:
                                                                     40 mL
   IVF:
                                                                    768 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,752 mL
                                                                    370 mL
   Urine:
                                                                    852 mL
                                                                    370 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -944 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (395 - 542) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/30/210/21/-1
   Ve: 9 L/min
   PaO2 / FiO2: 525
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   9.6 g/dL
   95 mg/dL
   5.3 mg/dL
   21 mEq/L
   3.7 mEq/L
   77 mg/dL
   108 mEq/L
   146 mEq/L
   30.1 %
   11.1 K/uL
        [image002.jpg]
                            [**2202-9-24**]  11:54 PM
                            [**2202-9-25**]  02:47 AM
                            [**2202-9-25**]  01:33 PM
                            [**2202-9-25**]  04:55 PM
                            [**2202-9-26**]  06:16 AM
                            [**2202-9-26**]  06:22 AM
                            [**2202-9-26**]  04:42 PM
                            [**2202-9-26**]  05:01 PM
                            [**2202-9-27**]  04:00 AM
                            [**2202-9-27**]  04:16 AM
   WBC
   18.5
   13.6
   11.1
   Hct
   33.2
   30.8
   30.1
   Plt
   128
   141
   202
   Cr
   4.6
   5.0
   5.8
   5.5
   5.3
   TCO2
   13
   16
   20
   22
   21
   Glucose
   178
   112
   108
   95
   99
   95
   Other labs: PT / PTT / INR:33.7/68.6/3.4, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:2329/2322, Alk Phos / T Bili:223/4.3,
   Amylase / Lipase:/183, Differential-Neuts:88.8 %, Lymph:6.2 %, Mono:3.9
   %, Eos:0.8 %, Lactic Acid:2.0 mmol/L, Albumin:3.3 g/dL, LDH:1199 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT yesterday
 ICD shocked him back into sinus tachycardia. These
   episodes improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   - Continue Dronedarone
   - Continue metoprolol 5mg IV Q4H for rate control
   - On Heparin gtt for afib and mural thrombus
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.
   - f/u neuro recs
   - f/u evoked potential test results, will need to re-address recovery
   potential with family once these results have been obtained.
   .
   # Respiratory status: currently on PSV with peep of 5, he is initiating
   spontanous breathing.  Questionable if patient is able to tolerate off
   the vent and may likely will aspirate.
   - trial wean off status
   - watch for aspiration risk, pna.
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus, still with fevers of 102 with rising
   leukocytosis.  Patient started on antibiotics on [**9-22**].
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days), off  vanco
   - continue cefepime for gram negatives in sputum
   - foley change (last change [**9-26**])
   .
   # Transaminitis: Elevated transaminases, LDH concerning for medication
   toxicity (amiodarone) versus viral etiology versus shock liver
   (hypoperfusion during code or during multiple VT runs, or secondary to
   multiple ICD firings)  Patient had unremarkable abdominal CT ([**9-20**]),
   negative RUQ US ([**9-24**]).  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - f/u viral hepatitis serologies
   - keep tylenol level to less than 2gm / day
   - d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   - [**Hospital1 **] electrolytes
   .
   #ARF: Patient in acute renal failure, likely [**1-4**] poor perfusion during
   arrest in the setting of poor forward flow [**1-4**] EF 20%.  Renal function
   worsening with poor urine output.  Will likely need CVVH vs. HD; Renal
   following.   Waiting for neuro results and family meeting prior to
   starting dialysis.  No urgent need for dialysis but hemodialysis line
   in place for dialysis if indicate.  Appreciate renal recs.  UOP and
   volume status improving.
   - follow daily lytes, creatinine, fluid balance, UOP.
   - f/u Renal recs
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.  INR
   supertherapeutic now.
   -Continue heparin for now
   -Hold warfarin for now, will restart when INR therapeutic
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, anticipate
   initiation of CVVH vs. HD today, [**9-25**].
   -Continue Metoprolol
   -Lisinopril held d/t renal failure
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   #Cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   #Abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   .
 INEFFECTIVE COPING
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 H/O ALCOHOL ABUSE
 PANCREATITIS, ACUTE
 CARDIAC ARREST
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 KNOWLEDGE DEFICIT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2202-9-24**] 03:00 PM
   20 Gauge - [**2202-9-25**] 01:38 AM
   22 Gauge - [**2202-9-25**] 01:39 AM
   Dialysis Catheter - [**2202-9-25**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-09-28 03:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - evoked potential study completed; to be reviewed in AM formally
   - family meeting planned for 5 pm tomorrow with Dr. [**Last Name (STitle) 4284**]
   - stopped heparin gtt due to hemoptysis x 2, but then re-started
   - suction placed on low continuous suction given > 30 cc residual over
   3-4 hrs
   - renal recs: can likely d/c HD line in AM
   - hepatitis panel negative for active A, B, or C
   - Had some spontaneous but no purposeful head, mouth, and left left
   movement at night. Not following any commands.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2202-9-25**] 01:00 PM
   Metronidazole - [**2202-9-25**] 08:00 PM
   Cefipime - [**2202-9-27**] 08:28 PM
   Ampicillin - [**2202-9-27**] 10:15 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2202-9-27**] 09:00 AM
   Metoprolol - [**2202-9-27**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-28**] 03:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 78 (62 - 81) bpm
   BP: 116/68(84) {91/51(63) - 141/82(103)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.8 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,144 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                    994 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    260 mL
   Urine:
                                                                  1,700 mL
                                                                    260 mL
   NG:
                                                                    385 mL
   Stool:
   Drains:
   Balance:
                                                                   -941 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (461 - 524) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.41/35/86/22/-1
   Ve: 9.7 L/min
   PaO2 / FiO2: 215
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   202 K/uL
   9.6 g/dL
   98 mg/dL
   4.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   76 mg/dL
   110 mEq/L
   145 mEq/L
   30.1 %
   11.1 K/uL
        [image002.jpg]
                            [**2202-9-25**]  01:33 PM
                            [**2202-9-25**]  04:55 PM
                            [**2202-9-26**]  06:16 AM
                            [**2202-9-26**]  06:22 AM
                            [**2202-9-26**]  04:42 PM
                            [**2202-9-26**]  05:01 PM
                            [**2202-9-27**]  04:00 AM
                            [**2202-9-27**]  04:16 AM
                            [**2202-9-27**]  05:05 PM
                            [**2202-9-27**]  05:27 PM
   WBC
   13.6
   11.1
   Hct
   30.8
   30.1
   Plt
   141
   202
   Cr
   5.0
   5.8
   5.5
   5.3
   4.8
   TCO2
   16
   20
   22
   21
   23
   Glucose
   112
   108
   95
   99
   95
   98
   Other labs: PT / PTT / INR:32.4/70.8/3.3, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:2329/2322, Alk Phos / T Bili:223/4.3,
   Amylase / Lipase:/183, Differential-Neuts:88.8 %, Lymph:6.2 %, Mono:3.9
   %, Eos:0.8 %, Lactic Acid:1.5 mmol/L, Albumin:3.3 g/dL, LDH:1199 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT yesterday
 ICD shocked him back into sinus tachycardia. These
   episodes improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   - Continue Dronedarone
   - Continue metoprolol 5mg IV Q4H for rate control
   - On Heparin gtt for afib and mural thrombus
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.
   - f/u neuro recs
   - f/u evoked potential test results, will need to re-address recovery
   potential with family once these results have been obtained.
   .
   # Respiratory status: currently on PSV with peep of 5, he is initiating
   spontanous breathing.  Questionable if patient is able to tolerate off
   the vent and may likely will aspirate.
   - trial wean off status
   - watch for aspiration risk, pna.
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus, still with fevers of 102 with rising
   leukocytosis.  Patient started on antibiotics on [**9-22**].
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days), off  vanco
   - continue cefepime for gram negatives in sputum
   - foley change (last change [**9-26**])
   .
   # Transaminitis: Elevated transaminases, LDH concerning for medication
   toxicity (amiodarone) versus viral etiology versus shock liver
   (hypoperfusion during code or during multiple VT runs, or secondary to
   multiple ICD firings)  Patient had unremarkable abdominal CT ([**9-20**]),
   negative RUQ US ([**9-24**]).  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - f/u viral hepatitis serologies
   - keep tylenol level to less than 2gm / day
   - [**Hospital1 **] electrolytes
   .
   #ARF: Patient in acute renal failure, likely [**1-4**] poor perfusion during
   arrest in the setting of poor forward flow [**1-4**] EF 20%.  Renal function
   worsening with poor urine output.  Will likely need CVVH vs. HD; Renal
   following.   Waiting for neuro results and family meeting prior to
   starting dialysis.  No urgent need for dialysis but hemodialysis line
   in place for dialysis if indicate.  Appreciate renal recs.  UOP and
   volume status improving, creatinine stable around 5.
   - follow daily lytes, creatinine, fluid balance, UOP.
   - d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   - f/u Renal recs
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.  INR
   supertherapeutic now.
   -Continue heparin for now
   -Hold warfarin for now, will restart when INR therapeutic
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, anticipate
   initiation of CVVH vs. HD today, [**9-25**].
   -Continue Metoprolol
   -Lisinopril held d/t renal failure
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   #Cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   #Abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2202-9-24**] 03:00 PM
   20 Gauge - [**2202-9-25**] 01:38 AM
   22 Gauge - [**2202-9-25**] 01:39 AM
   Dialysis Catheter - [**2202-9-25**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-09-28 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - evoked potential study completed; to be reviewed in AM formally
   - family meeting planned for 5 pm tomorrow with Dr. [**Last Name (STitle) 4284**]
   - stopped heparin gtt due to hemoptysis x 2, but then re-started
   - suction placed on low continuous suction given > 30 cc residual over
   3-4 hrs
   - renal recs: can likely d/c HD line in AM
   - hepatitis panel negative for active A, B, or C
   - Had some spontaneous but no purposeful head, mouth, and left left
   movement at night. Not following any commands.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2202-9-25**] 01:00 PM
   Metronidazole - [**2202-9-25**] 08:00 PM
   Cefipime - [**2202-9-27**] 08:28 PM
   Ampicillin - [**2202-9-27**] 10:15 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2202-9-27**] 09:00 AM
   Metoprolol - [**2202-9-27**] 09:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-28**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 79 (62 - 85) bpm
   BP: 111/65(82) {91/51(63) - 141/82(103)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.8 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,144 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                    994 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    615 mL
   Urine:
                                                                  1,700 mL
                                                                    515 mL
   NG:
                                                                    385 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -941 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 509 (461 - 524) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.43/29/183/22/-3
   Ve: 11.2 L/min
   PaO2 / FiO2: 457
   Physical Examination
   GEN: intubated, NAD
   CV: RRR, no m/r/g
   PULM: CTAB, equal BS anteriorly
   ABD: +BS, soft, distention unchanged
   EXTR: 1+ pedal edema at ankles b/l
   NEURO: no response to sternal rub, pressure to nailbed
   Labs / Radiology
   239 K/uL
   9.6 g/dL
   120 mg/dL
   4.3 mg/dL
   22 mEq/L
   3.8 mEq/L
   74 mg/dL
   112 mEq/L
   149 mEq/L
   30.7 %
   10.9 K/uL
        [image002.jpg]
                            [**2202-9-26**]  06:16 AM
                            [**2202-9-26**]  06:22 AM
                            [**2202-9-26**]  04:42 PM
                            [**2202-9-26**]  05:01 PM
                            [**2202-9-27**]  04:00 AM
                            [**2202-9-27**]  04:16 AM
                            [**2202-9-27**]  05:05 PM
                            [**2202-9-27**]  05:27 PM
                            [**2202-9-28**]  04:30 AM
                            [**2202-9-28**]  04:39 AM
   WBC
   13.6
   11.1
   10.9
   Hct
   30.8
   30.1
   30.7
   Plt
   141
   202
   239
   Cr
   5.8
   5.5
   5.3
   4.8
   4.3
   TCO2
   20
   22
   21
   23
   20
   Glucose
   95
   99
   95
   98
   120
   Other labs: PT / PTT / INR:31.2/65.8/3.1, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:1828/1272, Alk Phos / T Bili:198/5.1,
   Amylase / Lipase:240/850, Differential-Neuts:88.8 %, Lymph:6.2 %,
   Mono:3.9 %, Eos:0.8 %, Lactic Acid:1.5 mmol/L, Albumin:3.4 g/dL,
   LDH:690 IU/L, Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT yesterday
 ICD shocked him back into sinus tachycardia. These
   episodes improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   - Continue Dronedarone
   - Continue metoprolol 5mg IV Q4H for rate control
   - On Heparin gtt for afib and mural thrombus
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.
   - f/u neuro recs
   - f/u evoked potential test results, will need to re-address recovery
   potential with family once these results have been obtained.
   - family meeting is scheduled today at 5pm (contact Dr. [**First Name (STitle) **] and
   [**Doctor Last Name 4284**])
   .
   # Respiratory status: currently on PSV with peep of 5, he is initiating
   spontanous breathing.  Questionable if patient is able to tolerate off
   the vent and may likely will aspirate.
   - trial wean off status
   - watch for aspiration risk, pna.
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus, still with fevers of 102 with rising
   leukocytosis.  Patient started on antibiotics on [**9-22**].
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days), off  vanco
   - continue cefepime for gram negatives in sputum
   - foley change (last change [**9-26**])
   .
   # Transaminitis: Elevated transaminases, LDH concerning for medication
   toxicity (amiodarone) versus viral etiology versus shock liver
   (hypoperfusion during code or during multiple VT runs, or secondary to
   multiple ICD firings).  Patient had unremarkable abdominal CT ([**9-20**]),
   negative RUQ US ([**9-24**]).  Neg Hep serologies.  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - keep tylenol level to less than 2gm / day
   - [**Hospital1 **] electrolytes
   .
   # ARF: Patient in acute renal failure, likely [**1-4**] poor perfusion during
   arrest in the setting of poor forward flow [**1-4**] EF 20%.  Renal function
   worsening with poor urine output.  Will likely need CVVH vs. HD; Renal
   following.   Waiting for neuro results and family meeting prior to
   starting dialysis.  No urgent need for dialysis but hemodialysis line
   in place for dialysis if indicate.  Appreciate renal recs.  UOP and
   volume status improving, creatinine stable around 5.
   - follow daily lytes, creatinine, fluid balance, UOP.
   - d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   - f/u Renal recs
 they feel that HD is unlikely to be needed at this
   time; d/c HD line
   - fluid repletion @ 65 cc/hr to replace insensible losses
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.  INR
   supertherapeutic now.
   - Continue heparin for now
   - Hold warfarin for now
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, anticipate
   initiation of CVVH vs. HD today, [**9-25**].
   -Continue Metoprolol
   -Lisinopril held d/t renal failure
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   #Cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   #Abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2202-9-24**] 03:00 PM
   20 Gauge - [**2202-9-25**] 01:38 AM
   22 Gauge - [**2202-9-25**] 01:39 AM
   Dialysis Catheter - [**2202-9-25**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-09-29 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - evoked potential study showed intact brain transmission of signals;
   neurology felt that prognosis is likely 1-10% chance of neurologic
   recovery
   - met with family @ 5PM to discuss prognosis, plan, etc.  Family was
   divided during discussion but plan conveyed was that patient will
   likely need trach / PEG.  If recovery is to happen, neuro feels like it
   will happen in the next 3 weeks.
   - Ultimate plan is to d/c patient to rehab to await neurologic
   recovery, if it occurs.
   - Did not d/c HD line in AM as patient's long-term plans still not
   established; concern that patient could need HD in the future.
   - At 0100 appeared to having alternate periods of apnea and tachypnea
   worrisome for [**Last Name (un) 1464**]-[**Doctor Last Name 1465**] vs. Biot's respiratory pattern.  Switched
   vent to MMV mode to ensure minute volume >= 4L/min.  MAP began to
   deteriorate to < 60, gave 250 cc NS bolus.  CT head showed no signs of
   herniation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2202-9-28**] 09:00 PM
   Ampicillin - [**2202-9-28**] 10:03 PM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2202-9-28**] 09:00 PM
   Metoprolol - [**2202-9-29**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-9-29**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.8
   HR: 87 (68 - 87) bpm
   BP: 120/69(86) {87/43(56) - 131/84(100)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.6 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,705 mL
                                                                  1,002 mL
   PO:
             TF:
             66 mL
   IVF:
                                                                  1,505 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    750 mL
   Urine:
                                                                  1,350 mL
                                                                    250 mL
   NG:
                                                                    170 mL
   Stool:
   Drains:
   Balance:
                                                                    185 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 475 (475 - 1,470) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.44/27/211/21/-3
   Ve: 8.9 L/min
   PaO2 / FiO2: 527
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   264 K/uL
   9.3 g/dL
   156 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.7 mEq/L
   60 mg/dL
   118 mEq/L
   149 mEq/L
   29.3 %
   13.8 K/uL
        [image002.jpg]
                            [**2202-9-27**]  04:00 AM
                            [**2202-9-27**]  04:16 AM
                            [**2202-9-27**]  05:05 PM
                            [**2202-9-27**]  05:27 PM
                            [**2202-9-28**]  04:30 AM
                            [**2202-9-28**]  04:39 AM
                            [**2202-9-28**]  04:50 PM
                            [**2202-9-28**]  05:04 PM
                            [**2202-9-29**]  03:14 AM
                            [**2202-9-29**]  03:22 AM
   WBC
   11.1
   10.9
   13.8
   Hct
   30.1
   30.7
   29.3
   Plt
   [**Telephone/Fax (3) 10678**]
   Cr
   5.3
   4.8
   4.3
   3.7
   3.3
   TCO2
   21
   23
   20
   22
   19
   Glucose
   95
   98
   120
   148
   156
   Other labs: PT / PTT / INR:30.4/72.7/3.0, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:1828/1272, Alk Phos / T Bili:198/5.1,
   Amylase / Lipase:240/850, Differential-Neuts:88.8 %, Lymph:6.2 %,
   Mono:3.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL,
   LDH:690 IU/L, Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT yesterday
 ICD shocked him back into sinus tachycardia. These
   episodes improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   - Continue Dronedarone, f/u with EP regarding D/C dosing.
   - Continue metoprolol 5mg IV Q4H for rate control
   - On Heparin gtt for afib and mural thrombus
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.  Evoked potential noted
   to be intact, neuro status may recover (1-10%) chance.
   - f/u neuro recs.
   - consider DC to rehab
   .
   # Respiratory status: currently on PSV with peep of 5, he is initiating
   spontanous breathing.  Questionable if patient is able to tolerate off
   the vent and may likely will aspirate.
   - trial wean off status
   - watch for aspiration risk, pna.
   - need to get trach and PEG prior to rehab
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus, still with fevers of 102 with rising
   leukocytosis.  Patient started on antibiotics on [**9-22**].
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days), off  vanco
   - continue cefepime for gram negatives in sputum
   - foley change (last change [**9-26**])
   - f/u Bcx, urine cx, line cx.
   .
   # Transaminitis: Elevated transaminases, LDH concerning for medication
   toxicity (amiodarone) versus viral etiology versus shock liver
   (hypoperfusion during code or during multiple VT runs, or secondary to
   multiple ICD firings).  Patient had unremarkable abdominal CT ([**9-20**]),
   negative RUQ US ([**9-24**]).  Neg Hep serologies.  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - keep tylenol level to less than 2gm / day
   - [**Hospital1 **] electrolytes
   .
   # ARF: Patient in acute renal failure, likely [**1-4**] poor perfusion during
   arrest in the setting of poor forward flow [**1-4**] EF 20%.  Renal function
   worsening with poor urine output.  Will likely need CVVH vs. HD; Renal
   following.   Waiting for neuro results and family meeting prior to
   starting dialysis.  No urgent need for dialysis but hemodialysis line
   in place for dialysis if indicate.  Appreciate renal recs.  UOP and
   volume status improving, creatinine trending down to 3
s.  anticipating
   post-ATN diuresis.
   - follow daily lytes, creatinine, fluid balance, UOP.
   - d/c nephrotoxic meds (Lisinopril, digoxin; re-dose Vancomycin)
   - f/u Renal recs
 they feel that HD is unlikely to be needed at this
   time
   - d/c HD line after getting access (PICC line), need to culture HD line
   tip.
   - fluid repletion @ 65 cc/hr to replace insensible losses
   .
   # LV mural thrombus/ ? embolism:  Thrombus/embolus seen on TTE [**9-21**],
   head CT negative for embolic CVA or other acute process.  INR
   supertherapeutic now.
   - Continue heparin for now
   - Hold warfarin for now
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, but now has
   been having increased urine output.
   -Continue Metoprolol
   -Lisinopril held d/t renal failure
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   #Cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   #Abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.
   .
   #Macrocytic Anemia: Likely secondary to alcohol. Stable/improved today.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-9-29**] 12:18 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2202-9-24**] 03:00 PM
   20 Gauge - [**2202-9-25**] 01:38 AM
   22 Gauge - [**2202-9-25**] 01:39 AM
   Dialysis Catheter - [**2202-9-25**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-10-03 07:21:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   [**10-2**]
   - bigemini at times, mg replaced, urine output 20-30cc/hr, received
   bolus
   - changed a-line over wire.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2202-10-3**] 05:43 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2202-10-2**] 10:15 AM
   Heparin Sodium (Prophylaxis) - [**2202-10-2**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-10-3**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 71 (62 - 89) bpm
   BP: 102/60(74) {94/57(72) - 138/108(113)} mmHg
   RR: 11 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  3,217 mL
                                                                    889 mL
   PO:
             TF:
                                                                  1,307 mL
                                                                    452 mL
   IVF:
                                                                  1,030 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                    715 mL
                                                                    365 mL
   Urine:
                                                                    715 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,502 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (430 - 672) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 4.4 L/min
   Physical Examination
   Lying flat in bed, opening and closing eyes, not tracking, chewing on
   Endotracheal tube,
adjusting
 himself in bed
   HEENT:  Injected sclera, blinking eyes, tongue hanging out of mouth,
   does not respond to name being called
   CV: s1s2 RRR holosytolic murmur heard best at tricuspid area
   Pulm:  Ventilator associated rhonchi noted
   Ext: 2+ pedal edeam, strong pedal pulses
   Labs / Radiology
   9.8 g/dL
   269 K/uL
   149 mg/dL
   1.7 mg/dL
   24 mEq/L
   4.0 mEq/L
   37 mg/dL
   111 mEq/L
   144 mEq/L
   32.5 %
   15.0 K/uL
        [image002.jpg]
                            [**2202-9-28**]  04:50 PM
                            [**2202-9-28**]  05:04 PM
                            [**2202-9-29**]  03:14 AM
                            [**2202-9-29**]  03:22 AM
                            [**2202-9-30**]  04:19 AM
                            [**2202-9-30**]  03:06 PM
                            [**2202-10-1**]  05:19 AM
                            [**2202-10-1**]  05:29 AM
                            [**2202-10-2**]  05:06 AM
                             [**2202-10-3**]  03:25 AM
   WBC
   13.8
   15.6
   15.5
   15.7
   15.0
   Hct
   29.3
   29.2
   30.3
   32.6
   32.5
   Plt
   [**Telephone/Fax (3) 10708**]71
   269
   Cr
   3.7
   3.3
   2.6
   2.5
   2.3
   2.0
   1.7
   TCO2
   22
   19
   23
   Glucose
   148
   156
   158
   151
   212
   137
   149
   Other labs: PT / PTT / INR:16.6/31.6/1.5, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:800/278, Alk Phos / T Bili:220/4.9,
   Amylase / Lipase:240/850, Differential-Neuts:88.8 %, Lymph:6.2 %,
   Mono:3.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL,
   LDH:690 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT
 ICD shocked him back into sinus tachycardia. These episodes
   improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   - continue dronedarone per EP recs
   - continue metoprolol
   - started oral magnesium given daily need for magnesium repletion
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.  Evoked potential noted
   to be intact, neuro status may recover (1-10%) chance.  Ongoing
   discussion with family re: goals of care, prognosis.  The family has
   decided to pursue Trach/Peg for the patient.  Consulted IP and are
   planning on procedure on Monday.
   -          Trach/Peg Monday, waiting
   -          NPO after midnight
   .
   # Respiratory status: currently on PSV with peep of 5, he is initiating
   spontaneous breathing.  Questionable if patient is able to tolerate off
   the vent and likely will aspirate.
   - anticipate long term intubation, placing trach/PEG on monday
   - watch for aspiration risk, pna.
   - need to get trach and PEG prior to rehab.
   - ancef on call to trach/PEG
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus,.  Patient started on antibiotics on [**9-22**].
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days),
   - d/c
d cefepime as is Day 10
   - foley change (last change [**9-26**])
   - f/u Bcx, urine cx, line cx.
   .
   # Transaminitis: Improving transaminases, Likely shock liver from
   hypoperfusion  Patient had unremarkable abdominal CT ([**9-20**]), negative
   RUQ US ([**9-24**]).  Neg Hep serologies.  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - keep tylenol level to less than 2gm / day
   - [**Hospital1 **] electrolytes
   .
   # ARF: Improving.  Patient in acute renal failure, likely [**1-4**] poor
   perfusion during arrest in the setting of poor forward flow [**1-4**] EF
   20%.  Renal function worsening with poor urine output
   - Monitor
   .
   # hypernatremia
 Resolved.
   .
   # ?LV mural thrombus
 Initially felt that thrombus/embolus seen on TTE
   [**9-21**], head CT negative for embolic CVA or other acute process.  After
   discussion with EP, it was felt that this was likely just fibrin and no
   clear thrombus was present.
   - heparin gtt was d/ced per EP recs as it was felt that there probably
   was no LV thrombus, just fibrin, on TTE.
   - SQ heparin for DVT prophylaxis
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, but now has
   been having increased urine output.
   - continue Metoprolol
   - lisinopril held d/t renal failure
   - Lasix to (- 500ml)
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   # cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   # abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.
   .
   # macrocytic anemia: Likely secondary to alcohol.  Continuing to trend
   daily.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2202-10-3**] 03:03 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2202-9-24**] 03:00 PM
   PICC Line - [**2202-9-29**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2202-10-04 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2202-10-3**] 12:00 PM
   -diuresed well with 80mg IV lasix bolus
   -Started on PO mag. oxide given continual need for replacement
   -NPO after midnight on [**2202-10-4**] for bedside placement of trach and peg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2202-10-4**] 04:17 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2202-10-3**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2202-10-3**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-10-4**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 102 (59 - 102) bpm
   BP: 110/91(95) {89/45(56) - 123/91(97)} mmHg
   RR: 23 (6 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 82.4 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  3,629 mL
                                                                    333 mL
   PO:
             TF:
                                                                  1,577 mL
   IVF:
                                                                    422 mL
                                                                    133 mL
   Blood products:
   Total out:
                                                                  2,780 mL
                                                                    820 mL
   Urine:
                                                                  2,780 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    849 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 307 (307 - 543) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 57
   SpO2: 100%
   ABG: ///26/
   Ve: 7.7 L/min
   Physical Examination
   Lying flat in bed, opening and closing eyes, not tracking, chewing on
   Endotracheal tube,
adjusting
 himself in bed,
   HEENT: Eyes spontaneously opening but without tracking or startle
   response, pupils reactive to light, injected sclera. Strong cough, but
   impaired gag. No spontaneous or purposeful movements noted in either
   upper or lower extremities, does not respond to name being called
   CV: s1s2 RRR holosytolic murmur heard best at tricuspid area
   Pulm:  Ventilator associated rhonchi noted
   Ext: 2+ pedal edeam, strong pedal pulses
   Labs / Radiology
   275 K/uL
   10.1 g/dL
   126 mg/dL
   1.4 mg/dL
   26 mEq/L
   3.8 mEq/L
   29 mg/dL
   111 mEq/L
   147 mEq/L
   32.0 %
   15.0 K/uL
        [image002.jpg]
                            [**2202-9-28**]  05:04 PM
                            [**2202-9-29**]  03:14 AM
                            [**2202-9-29**]  03:22 AM
                            [**2202-9-30**]  04:19 AM
                            [**2202-9-30**]  03:06 PM
                            [**2202-10-1**]  05:19 AM
                            [**2202-10-1**]  05:29 AM
                            [**2202-10-2**]  05:06 AM
                             [**2202-10-3**]  03:25 AM
                             [**2202-10-4**]  04:51 AM
   WBC
   13.8
   15.6
   15.5
   15.7
   15.0
   15.0
   Hct
   29.3
   29.2
   30.3
   32.6
   32.5
   32.0
   Plt
   [**Telephone/Fax (3) 10708**]71
   269
   275
   Cr
   3.3
   2.6
   2.5
   2.3
   2.0
   1.7
   1.4
   TCO2
   22
   19
   23
   Glucose
   156
   158
   151
   [**Telephone/Fax (3) 10725**]
   126
   Other labs: PT / PTT / INR:16.6/31.6/1.5, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:800/278, Alk Phos / T Bili:220/4.9,
   Amylase / Lipase:240/850, Differential-Neuts:88.8 %, Lymph:6.2 %,
   Mono:3.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL,
   LDH:690 IU/L, Ca++:9.2 mg/dL, Mg++:1.5 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT
 ICD shocked him back into sinus tachycardia. These episodes
   improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   Usually noted to have HR 68-74 SR with short periods of ventricular
   bigeminy. BP 89-123/60-70 on metroprolol and dronederone.
   - continue dronedarone per EP recs
   - continue metoprolol
   - started oral magnesium given daily need for magnesium repletion
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.  Evoked potential noted
   to be intact, neuro status may recover (1-10%) chance.  Ongoing
   discussion with family re: goals of care, prognosis.  The family has
   decided to pursue Trach/Peg for the patient.  Consulted IP and are
   planning on procedure on Monday.
   - Trach/Peg on [**10-4**], waiting for placement
   .
   # Respiratory status: He is initiating spontaneous breathing.
   Questionable if patient is able to tolerate off the vent and likely
   will aspirate.  Intubated: CPAP w/ PS @  FiO2 40%/5 PSV/ 5 peep. O2 sat
   100%. RR 13-20. LS clear but diminished at bases. Very strong cough and
   frequenlt requires suctioning for clear, thick ETT secretions
   - anticipate long term intubation, placing trach/PEG on [**10-4**]
   - watch for aspiration risk, pna.
   - need to get trach and PEG prior to rehab.
   - ancef on call to trach/PEG
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus,.  Patient started on antibiotics on [**9-22**].
   Foley draining amber colored urine. On IV ampicillin for treatment of
   enteroccoccal UTI (afebrile).
   - responding to lasix
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days),
   - d/c
d cefepime as is Day 10
   - foley change (last change [**9-26**])
   - f/u Bcx, urine cx, line cx.
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, but now has
   been having increased urine output.
   - continue Metoprolol
   - lisinopril held d/t renal failure
   - Lasix to (- 500ml), pm lytes
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   # Transaminitis: Improving transaminases, Likely shock liver from
   hypoperfusion  Patient had unremarkable abdominal CT ([**9-20**]), negative
   RUQ US ([**9-24**]).  Neg Hep serologies.  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - keep tylenol level to less than 2gm / day
   - [**Hospital1 **] electrolytes
   .
   # ARF: Improving.  Patient in acute renal failure, likely [**1-4**] poor
   perfusion during arrest in the setting of poor forward flow [**1-4**] EF
   20%.  Renal function worsening with poor urine output
   - Monitor
   .
   # hypernatremia
 Resolved.
   .
   # ?LV mural thrombus
 Initially felt that thrombus/embolus seen on TTE
   [**9-21**], head CT negative for embolic CVA or other acute process.  After
   discussion with EP, it was felt that this was likely just fibrin and no
   clear thrombus was present.
   - heparin gtt was d/ced per EP recs as it was felt that there probably
   was no LV thrombus, just fibrin, on TTE.
   - SQ heparin for DVT prophylaxis
   .
   # cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   # abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.   On TF at 60 ml/hr. NPO after MN. BG treated with RISS.
   .
   # macrocytic anemia: Likely secondary to alcohol.  Continuing to trend
   daily.
   # DISPO: awaiting rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2202-9-29**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2202-10-05 06:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - received trach/PEG this AM.  Instructions are to use PEG for meds
   only, tube feeds can start in 24 hours after placement (~1100
   tomorrow).  Tube feeds were therefore stopped.
   - gave 500 cc D5W to help correct free water deficit since patient
   wasn
t getting free water flushes with tube feeds
   - lasix 80 mg IV x 1
   - plan to d/c to rehab [**10-5**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2202-10-4**] 07:50 AM
   Ampicillin - [**2202-10-5**] 03:47 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2202-10-4**] 08:29 AM
   Midazolam (Versed) - [**2202-10-4**] 08:29 AM
   Furosemide (Lasix) - [**2202-10-4**] 05:33 PM
   Heparin Sodium (Prophylaxis) - [**2202-10-4**] 10:51 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2202-10-5**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 80 (66 - 99) bpm
   BP: 97/58(67) {87/47(56) - 117/78(88)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 77.5 kg (admission): 76.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,790 mL
                                                                    132 mL
   PO:
             TF:
   IVF:
                                                                  1,210 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  3,585 mL
                                                                    735 mL
   Urine:
                                                                  3,585 mL
                                                                    735 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,795 mL
                                                                   -603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 408 (350 - 502) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 7.5 L/min
   Physical Examination
   Lying flat in bed, opening and closing eyes, not tracking, chewing on
   Endotracheal tube,
adjusting
 himself in bed,
   HEENT: Eyes spontaneously opening but without tracking or startle
   response, pupils reactive to light, injected sclera. Strong cough, but
   impaired gag. No spontaneous or purposeful movements noted in either
   upper or lower extremities, does not respond to name being called
   CV: s1s2 RRR holosytolic murmur heard best at tricuspid area
   Pulm:  Ventilator associated rhonchi noted
   Ext: 2+ pedal edeam, strong pedal pulses
   Labs / Radiology
   262 K/uL
   9.7 g/dL
   98 mg/dL
   1.3 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   109 mEq/L
   145 mEq/L
   31.1 %
   12.7 K/uL
        [image002.jpg]
                            [**2202-9-29**]  03:22 AM
                            [**2202-9-30**]  04:19 AM
                            [**2202-9-30**]  03:06 PM
                            [**2202-10-1**]  05:19 AM
                            [**2202-10-1**]  05:29 AM
                            [**2202-10-2**]  05:06 AM
                             [**2202-10-3**]  03:25 AM
                             [**2202-10-4**]  04:51 AM
                             [**2202-10-4**]  05:07 PM
                             [**2202-10-5**]  02:24 AM
   WBC
   15.6
   15.5
   15.7
   15.0
   15.0
   12.7
   Hct
   29.2
   30.3
   32.6
   32.5
   32.0
   31.1
   Plt
   [**Telephone/Fax (2) 10729**]
   Cr
   2.6
   2.5
   2.3
   2.0
   1.7
   1.4
   1.3
   1.3
   TCO2
   19
   23
   Glucose
   158
   151
   212
   137
   149
   126
   99
   98
   Other labs: PT / PTT / INR:18.1/33.7/1.6, CK / CKMB /
   Troponin-T:77/8/0.49, ALT / AST:243/86, Alk Phos / T Bili:210/4.9,
   Amylase / Lipase:240/850, Differential-Neuts:88.8 %, Lymph:6.2 %,
   Mono:3.9 %, Eos:0.8 %, Lactic Acid:1.3 mmol/L, Albumin:3.4 g/dL,
   LDH:690 IU/L, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   43 y/o M w/ h/o Ischemic Dilated Cardiomyopathy (EF 20%) s/p ICD
   placement who presents with VT Storm.
   .
   # RHYTHM:  Patient s/p EP procedure for VT which was likely the cause
   of his syncopal episode PTA.  Unable to induce arrhythmia in cath lab
   o/n, however slow rhythm induced and pt required resuscitation for
   PEA.  Patient with ICD in place with AT pacing at rates > 180, Firing
   at rates > 250.  Returned to ICU on ballon pump s/p cardiac arrest in
   EP lab.  Balloon pump pulled [**9-20**], sedation continued as patient
   became very agitated on vent with propofol. Off propofol since 2pm on
   [**9-22**] with little improvement in MS. On [**9-23**], pt had multiple episodes
   of SVT
 ICD shocked him back into sinus tachycardia. These episodes
   improved with lidocane gtt (dc
d [**9-25**]) and Amiodarone.  Now
   transitioned to Dronedarone for rhythm control and out of concern for
   toxicity with Amiodarone.  Digoxin also dc
d given renal failure.
   Usually noted to have HR 68-74 SR with short periods of ventricular
   bigeminy. BP 89-123/60-70 on metroprolol and dronederone.
   - continue dronedarone per EP recs
   - continue metoprolol
   - started oral magnesium given daily need for magnesium repletion
   .
   # Mental status: Concern for anoxic brain injury s/p hypoperfusion,
   (vs. etoh withdrawal, or excess sedation not being cleared by
   liver/kidneys.) Neuro does not believe this is sub-clinical seizures
   based on EEG.  Off sedation since [**9-22**] at 2pm.  Evoked potential noted
   to be intact, neuro status may recover (1-10%) chance.  Ongoing
   discussion with family re: goals of care, prognosis.  The family has
   decided to pursue Trach/Peg for the patient.  Consulted IP and are
   planning on procedure on Monday.
   - Trach/Peg on [**10-4**], waiting for placement
   .
   # Respiratory status: He is initiating spontaneous breathing.
   Questionable if patient is able to tolerate off the vent and likely
   will aspirate.  Intubated: CPAP w/ PS @  FiO2 40%/5 PSV/ 5 peep. O2 sat
   100%. RR 13-20. LS clear but diminished at bases. Very strong cough and
   frequenlt requires suctioning for clear, thick ETT secretions
   - anticipate long term intubation, placing trach/PEG on [**10-4**]
   - watch for aspiration risk, pna.
   - need to get trach and PEG prior to rehab.
   - ancef on call to trach/PEG
   .
   # Fever/Leukocytosis:  Fever improved but WBC remains elevated.  UA
   growing enterococcus. Positive sputum cx, speciation pending, positive
   U/A growing Enterococcus,.  Patient started on antibiotics on [**9-22**].
   Foley draining amber colored urine. On IV ampicillin for treatment of
   enteroccoccal UTI (afebrile).
   - responding to lasix
   - Ampicillin for vanc-sensitive enterococcus in urine (day 1=[**9-26**],
   continue for 10 days),
   - d/c
d cefepime as is Day 10
   - foley change (last change [**9-26**])
   - f/u Bcx, urine cx, line cx.
   .
   # PUMP/Chronic Systolic Heart Failure:  Euvolemic on examination
   without significant pedal edema.  Antero-apical akinesis on TTE, had
   been off coumadin at home given non-compliance with INR checks as an
   outpatient, now with LV thrombus seen on TTE this admission.  IABP
   removed [**9-21**].  Volume overloaded with poor urine output, but now has
   been having increased urine output.
   - continue Metoprolol
   - lisinopril held d/t renal failure
   - Lasix to (- 500ml), pm lytes
   .
   # CORONARIES:  Patient s/p large anterior myocardial infarction in
   [**2192**].
   - Continue statin, aspirin, beta blocker.
   .
   #  ETOHism - Chronic issue.  Patient likely minimizes his ETOH use.
   Not requiring CIWA currently given sedation.
   - CIWA Scale in place for when patient is extubated
   - MVI, folate, thiamine (NG)
   .
   # Transaminitis: Improving transaminases, Likely shock liver from
   hypoperfusion  Patient had unremarkable abdominal CT ([**9-20**]), negative
   RUQ US ([**9-24**]).  Neg Hep serologies.  LFTs now downtrending.
   - trend LFTs daily
   - check albumin, INR daily to follow liver function
   - keep tylenol level to less than 2gm / day
   - [**Hospital1 **] electrolytes
   .
   # ARF: Improving.  Patient in acute renal failure, likely [**1-4**] poor
   perfusion during arrest in the setting of poor forward flow [**1-4**] EF
   20%.  Renal function worsening with poor urine output
   - Monitor
   .
   # hypernatremia
 reinforce free water flushes, d5w as needed PM lytes
   check.
   .
   # ?LV mural thrombus
 Initially felt that thrombus/embolus seen on TTE
   [**9-21**], head CT negative for embolic CVA or other acute process.  After
   discussion with EP, it was felt that this was likely just fibrin and no
   clear thrombus was present.
   - heparin gtt was d/ced per EP recs as it was felt that there probably
   was no LV thrombus, just fibrin, on TTE.
   - SQ heparin for DVT prophylaxis
   .
   # cool L Lower Extremity: Hx of L foot slightly cooler than R but
   stable/improved clinically.
   .
   # abd distension: Stable, +BS, CT negative, will monitor clinically
   daily.   On TF at 60 ml/hr. NPO after MN. BG treated with RISS.
   .
   # macrocytic anemia: Likely secondary to alcohol.  Continuing to trend
   daily.
   # DISPO: awaiting rehab
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2202-9-29**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: